US09371330B2
(4-(((6S)-1-(benzylcarbamoyl)-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidin-6-yl)methyl)phenyl acetate)
To a solution of (6S)—N-benzyl-6-(4-hydroxybenzyl)-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidine-1-carboxamide 60 mg (0.106 mmol) in pyridine (1 ml), acetic anhydride 1 ml (10.579 mmol) was added and the mixture was stirred at room temperature for 24 hr. The reaction mixture was diluted with ethyl acetate (10 ml) and washed with 10% citric acid (10 ml) 3 times and brine (10 ml). The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was purified by Büchi silica gel column chromatography (chloroform:methanol=99:1 to 98:2) to obtain title compound.

reactant | (6S)—N-benzyl-6-(4-hydroxybenzyl)-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidine-1-carboxamide | 0.106 mmol, 60 mg | C(C1=CC=CC=C1)NC(=O)N1C2N(C(CC1)=O)[C@H](C(N(C2)CC2=CC=CC1=CC=CC=C21)=O)CC2=CC=C(C=C2)O | C33H32N4O4
reactant | acetic anhydride | 10.579 mmol, 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-(((6S)-1-(benzylcarbamoyl)-8-(naphthalen-1-ylmethyl)-4,7-dioxooctahydro-1H-pyrazino[1,2-a]pyrimidin-6-yl)methyl)phenyl acetate | C(C)(=O)OC1=CC=C(C=C1)C[C@H]1C(N(CC2N1C(CCN2C(NCC2=CC=CC=C2)=O)=O)CC2=CC=CC1=CC=CC=C21)=O | C35H34N4O5
